US08242125B2
72-A. (2-Isopropylamino-pyridin-4-yl)-methanol
A mixture of (2-bromo-pyridin-4-yl)-methanol (500 mg, 2.66 mmol), isopropylamine (0.45 mL, 5.32 mmol), NatOBu (790 mg, 7.98 mmol) and Pd(tBu3P)2 (136 mg, 0.26 mmol) in 1,4-dioxane (5 mL) is heated in a microwave reactor at 110° C. for 45 min. The reaction is diluted with DCM (50 mL) and washed with saturated aqueous NH4Cl. The organic layer is removed, dried over anhydrous Na2SO4, and concentrated in vacuo to give the title compound that is used without further purification. MS (ESI) m/z 167.1 (M+1).

reactant | (2-bromo-pyridin-4-yl)-methanol | 2.66 mmol, 500 mg | BrC1=NC=CC(=C1)CO | C6H6BrNO
reactant | isopropylamine | 5.32 mmol, 0.45 mL | C(C)(C)N | C3H9N
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (2-Isopropylamino-pyridin-4-yl)-methanol | C(C)(C)NC1=NC=CC(=C1)CO | C9H14N2O
